US08013156B2
To a solution of 1-Boc-piperazine (8 mmol, 1.5 g) and anhydrous tetrahydrofuran cooled at −45° C. was added 5,6-dichloro-2,3-dicyanopyrazine (4 mmol, 800 mg). The mixture was stirred at −45° C. for 1.5 hours. Reaction mixture was concentrated and stirred in EtOAc, filtered and concentrated. The crude material was purified on silica column using 30% EtOAc/hexanes to yield 3′-Chloro-5′,6′-dicyano-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester (640 mg).

reactant | 1-Boc-piperazine | 8 mmol, 1.5 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | 5,6-dichloro-2,3-dicyanopyrazine | 4 mmol, 800 mg | ClC=1N=C(C(=NC1Cl)C#N)C#N | C6Cl2N4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3′-Chloro-5′,6′-dicyano-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester | 640 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=C(N=C1Cl)C#N)C#N | C15H17ClN6O2
